US09212187B2
Synthesis of 2,3-dihydrobenzofuran-7-carboxylic acid methyl-(2-{[3-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yloxy)propyl]pyridin-4-ylmethylamino}ethyl)amide dihydrochloride
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (WSC) (144 mg), and 1-hydroxy benzotriazole (HOBt) (115 mg) were added to a DMF solution(5 ml) of 6-{3-[(2-methylaminoethyl)pyridin-4-ylmethylamino]propoxy}-3,4-dihydro-2H-isoquinolin-1-one trihydrochloride(234 mg), and 2,3-dihydrobenzofuran-7-carboxylic acid(123 mg). The mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was washed with water, and dried with anhydrous sodium sulfate. After condensation under reduced pressure, the residue was purified by NH silica gel column chromatography (ethyl acetate: methanol=1:0→10:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(0.19 ml) was added to an ethyl acetate solution of the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(164.6 mg) as a white powder.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 144 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy benzotriazole | 115 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 6-{3-[(2-methylaminoethyl)pyridin-4-ylmethylamino]propoxy}-3,4-dihydro-2H-isoquinolin-1-one trihydrochloride | 234 mg | Cl.Cl.Cl.CNCCN(CCCOC=1C=C2CCNC(C2=CC1)=O)CC1=CC=NC=C1
reactant | 2,3-dihydrobenzofuran-7-carboxylic acid | 123 mg | O1CCC2=C1C(=CC=C2)C(=O)O | C9H8O3
reactant | hydrogen chloride ethyl acetate | 0.19 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2,3-dihydrobenzofuran-7-carboxylic acid methyl-(2-{[3-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yloxy)propyl]pyridin-4-ylmethylamino}ethyl)amide dihydrochloride | 164.6 mg | Cl.Cl.CN(C(=O)C1=CC=CC=2CCOC21)CCN(CC2=CC=NC=C2)CCCOC=2C=C1CCNC(C1=CC2)=O | InChI=1S/C30H34N4O4.2ClH/c1-33(30(36)27-5-2-4-23-11-19-38-28(23)27)16-17-34(21-22-8-12-31-13-9-22)15-3-18-37-25-6-7-26-24(20-25)10-14-32-29(26)35;;/h2,4-9,12-13,20H,3,10-11,14-19,21H2,1H3,(H,32,35);2*1H
